US08067408B2
1,1-Dimethylethyl 4-[(2′-fluoro-5′-{[({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate (0.200 g, 0.5 mmol) in CH2Cl2 (5 mL) was added 3-[(methyloxy)carbonyl]benzoic acid (0.0901 g, 0.5 mmol), HBTU (0.19 g, 0.5 mmol), and Et3N (0.0703 mL, 0.5 mmol). The mixture was stirred at room temperature for 18 h and then quenched with H2O. The organic layer was separated, concentrated and purified by CombiFlash chromatograph to afford the title compound 0.26 g (93%). LC-MS m/z 562 (M+H)+.

reactant | 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.5 mmol, 0.200 g | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C)F | C23H30FN3O2
reactant | 3-[(methyloxy)carbonyl]benzoic acid | 0.5 mmol, 0.0901 g | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | HBTU | 0.5 mmol, 0.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.5 mmol, 0.0703 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 4-[(2′-fluoro-5′-{[({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.26 g, 93% | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)C(=O)OC)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C32H36FN3O5
